US05175164
2-n-Butyl-5-ethyl-6-methylpyrimidin-4(3H)-one
A solution of 3.0 g valeramidine hydrochloride, 3.47 g ethyl-2 ethylacetoacetate, and 5.8 mL triethylamine in 20 mL DMF was heated to 120° C. for 18 hours. The mixture was diluted with brine and extracted three times with ether. The combined organic material was washed with brine, was dried over MgSO4, was stripped of solvent in vacuo, and then was still flash chromatographed in 3% MeOH in CH2Cl2 to give the title compound as a white solid.

reactant | valeramidine hydrochloride | 3.0 g | Cl.C(CCCC)(=N)N
reactant | ethyl-2 ethylacetoacetate | 3.47 g | C(C)OC(C(C(=O)C)CC)=O | C8H14O3
reactant | triethylamine | 5.8 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-n-Butyl-5-ethyl-6-methylpyrimidin-4(3H)-one | C(CCC)C1=NC(=C(C(N1)=O)CC)C | C11H18N2O
